US06919356B2
Part A: Preparation of 2-(4-trifluoromethylphenyl)-ethanol
A solution of 4-trifluoromethylphenylacetic acid (784 mg, 3.84 mmol) in tetrahydrofuran (3 mL) was cooled to 0° C. and treated dropwise with a solution of borane in tetrahydrofuran (1.0 M, 5.4 mL, 5.4 mmol). The mixture was stirred at room temperature for 2.75 hours, then was treated slowly with 50% water in tetrahydrofuran (2 mL), followed by water (2 mL). The mixture was stirred for 5 minutes, and solid potassium carbonate was added to saturate the aqueous phase. The layers were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated under vacuum to provide a colorless liquid (585 mg, 80%) which was used without further purification. 1H NMR (300 MHz, CDCl3) δ7.59 (d, J=8 Hz, 2H), 7.38 (d, J=8 Hz, 2H), 3.92 (t, J=7 Hz, 2H), 2.95 (t, J=7 Hz, 2H), 1.53 (s, 1H).

reactant | 4-trifluoromethylphenylacetic acid | 3.84 mmol, 784 mg | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | borane | B | BH3
reactant | water | O | H2O
reactant | water | 2 mL | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.4 mmol, 1.0 M, 5.4 mL | O1CCCC1 | C4H8O
product | 2-(4-trifluoromethylphenyl)-ethanol | 585 mg, 80% | FC(C1=CC=C(C=C1)CCO)(F)F | C9H9F3O
